US07786165B2
[step 1] A mixture of 3-bromo-4-isopropoxybenzaldehyde (0.42 g, 1.72 mmol), [4-(2-ethoxyethoxy)-2,6-dimethylphenyl]boronic acid (0.45 g, 1.89 mmol), tris(dibenzylideneacetone)dipalladium(0) (63 mg, 0.069 mmol), 2-(dicyclohexylphosphino)biphenyl (37 mg, 0.10 mmol), tripotassium phosphate (0.73 g, 3.44 mmol) and toluene (20 mL) was stirred under a nitrogen atmosphere at 90° C. for 18 hr. After cooling the reaction mixture, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was crudely purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=1/1) to give crude 4′-(2-ethoxyethoxy)-6-isopropoxy-2′,6′-dimethylbiphenyl-3-carbaldehyde (0.22 g) as a yellow oil. [step 2] To a solution of the obtained oil and ethyl 3-(4-amino-2-fluorophenyl)propanoate (0.14 g, 0.67 mmol) in 1,2-dichloroethane (4.4 mL) was added acetic acid (0.12 mL, 2.01 mmol), and the mixture was stirred at room temperature for 3 hr. Sodium triacetoxyborohydride (0.43 g, 2.01 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was crudely purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=2/1) to give crude ethyl 3-[4-({[4′-(2-ethoxyethoxy)-6-isopropoxy-2′,6′-dimethylbiphenyl-3-yl]methyl}amino)-2-fluorophenyl]propanoate (0.26 g) as a colorless oil. [step 3] To a solution of the obtained oil in a mixture of methanol (2.6 mL) and tetrahydrofuran (5.2 mL) was added 1 N aqueous sodium hydroxide solution (0.94 mL, 0.94 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was neutralized with 1 N hydrochloric acid, and diluted with ethyl acetate, and the organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-hexane/ethyl acetate=1/2) to give a colorless oil. The obtained oil was dissolved in ethyl acetate, and 4 N hydrogen chloride/ethyl acetate solution was added. The precipitated crystals were collected by filtration, washed with ethyl acetate and dried to give the title compound (93 mg, yield 10%, 3 steps) as beige crystals.

reactant | 3-bromo-4-isopropoxybenzaldehyde | 1.72 mmol, 0.42 g | BrC=1C=C(C=O)C=CC1OC(C)C | C10H11BrO2
reactant | [4-(2-ethoxyethoxy)-2,6-dimethylphenyl]boronic acid | 1.89 mmol, 0.45 g | C(C)OCCOC1=CC(=C(C(=C1)C)B(O)O)C | C12H19BO4
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.10 mmol, 37 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | tripotassium phosphate | 3.44 mmol, 0.73 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.069 mmol, 63 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-(2-ethoxyethoxy)-6-isopropoxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 0.22 g | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1OC(C)C)C=O)C | C22H28O4
